### PR TITLE
[Merged by Bors] - chore(Data/Sym2): improve defeq of `diagSet`

### PR DESCRIPTION
**Pull request by YaelDillies**
#30559 introduced a regression on the defeqs in the `SimpleGraph` API. This PR fixes it.

From LeanCamCombi

---

I personally think this new `diagSet` definition is unnecessary: `{e | e.IsDiag}` is not much longer to write than `Sym2.diagSet` and more transparent, but whatever.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by vihdzp** [comment]
I agree with you, why even have this? This is just `setOf IsDiag`.

File: Mathlib/Data/Sym/Sym2.lean [hunk 1]
```diff
@@ -589,20 +592,25 @@ theorem fromRel_ne : fromRel (fun (_ _ : α) z => z.symm : Symmetric Ne) = {z |
...
 lemma diagSet_compl_eq_fromRel_ne : diagSetᶜ = fromRel (α := α) (r := Ne) (fun _ _ ↦ Ne.symm) := by
-  ext z
-  exact z.ind fun _ _ ↦ mem_diagSet_iff_eq.not
+  ext ⟨a, b⟩; simp
+
+@[simp] lemma diagSet_subset_fromRel (hr : Symmetric r) : diagSet ⊆ fromRel hr ↔ Reflexive r := by
+  simp [Set.subset_def, Sym2.forall, Reflexive]
+
+@[simp] lemma disjoint_diagSet_fromRel (hr : Symmetric r) :
+    Disjoint diagSet (fromRel hr) ↔ Irreflexive r := by
```
Comment (SnirBroshi) [inline Mathlib/Data/Sym/Sym2.lean:614]: The complement of `diagSet` [appears in 4 lemmas](https://github.com/search?q=repo%3Aleanprover-community%2Fmathlib4+diagSet%E1%B6%9C+path%3A%2F%5EMathlib%5C%2FCombinatorics%5C%2FSimpleGraph%5C%2F%2F&type=code) so we should either keep both the `Disjoint` version and the subset-compl version, or change those lemmas.
(or let them deal with it with `Disjoint.subset_compl_left`, but I prefer making the `diagSet` API easy to use)

File: Mathlib/Data/Sym/Sym2.lean [hunk 2]
```diff
@@ -503,40 +503,43 @@ lemma isDiag_map (hf : Injective f) : (e.map f).IsDiag ↔ e.IsDiag :=
...
 
 /-- The set of all `Sym2 α` elements on the diagonal. -/
-def diagSet : Set (Sym2 α) :=
-  Set.range diag
+def diagSet : Set (Sym2 α) := {e | e.IsDiag}
 
-@[simp]
-theorem mem_diagSet_iff_isDiag (z : Sym2 α) : z ∈ diagSet ↔ z.IsDiag :=
-  ⟨fun ⟨_, h⟩ ↦ h ▸ rfl, z.ind fun a b (h : a = b) ↦ ⟨a, h ▸ rfl⟩⟩
+@[simp] lemma mem_diagSet : e ∈ diagSet ↔ e.IsDiag := .rfl
```
Comment (SnirBroshi) [inline Mathlib/Data/Sym/Sym2.lean]: If you're changing the variable from `e` to `z` you should change the rest of the file, or at least the rest of the API you're modifying.
Personally I think `e` only fits the graph case, but I guess either one is fine as long as it's consistent.

**Review by SnirBroshi — APPROVED** [review]
I agree that the defeq problem is annoying, I had to choose between `setOf IsDiag` and `Set.range diag` for the definition and evidently I chose the less ergonomic one.
I disagree with the claim that this definition is unnecessary, though.

File: Mathlib/Data/Sym/Sym2.lean (hunk 2 above)
Comment (YaelDillies) [reply Mathlib/Data/Sym/Sym2.lean]: I'm following local consistency here: At this point, there is a variable `e : Sym2 α` already declared, but no `z : Sym2 α`.

Comment (SnirBroshi) [reply Mathlib/Data/Sym/Sym2.lean]: 39 theorems/defs in this file use `z`, and 4 use `e`. You introduced the `variable` and doubled the amount of theorems that use `e` from 2 to 4 in [#8183](https://github.com/leanprover-community/mathlib4/pull/8183/files), and that PR also notes that `z` is the common option.

File: Mathlib/Data/Sym/Sym2.lean [hunk 3]
```diff
@@ -505,49 +505,52 @@ theorem mk_isDiag_iff {x y : α} : IsDiag s(x, y) ↔ x = y :=
...
+  Sym2.ind (fun _ _ ↦ hf.eq_iff) z
 
 @[simp]
 theorem diag_isDiag (a : α) : IsDiag (diag a) :=
   Eq.refl a
 
-theorem isDiag_of_subsingleton [Subsingleton α] (z : Sym2 α) : z.IsDiag :=
-  z.ind Subsingleton.elim
+@[simp, nontriviality]
+theorem isDiag_of_subsingleton [Subsingleton α] (e : Sym2 α) : e.IsDiag := e.ind Subsingleton.elim
```
Comment (b-mehta) [inline Mathlib/Data/Sym/Sym2.lean]: Is there a reason the variable name here is changing?

File: Mathlib/Data/Sym/Sym2.lean [hunk 4]
```diff
@@ -505,49 +505,52 @@ theorem mk_isDiag_iff {x y : α} : IsDiag s(x, y) ↔ x = y :=
...
+@[deprecated mem_diagSet (since := "2025-11-05")]
+theorem mem_diagSet_iff_eq {a b : α} : s(a, b) ∈ diagSet ↔ a = b := by simp
 
-theorem diagSet_eq_setOf_isDiag : diagSet = {z : Sym2 α | z.IsDiag} :=
-  Set.ext mem_diagSet_iff_isDiag
+@[deprecated "This is the equational lemma" (since := "2025-12-10")]
+theorem diagSet_eq_setOf_isDiag : diagSet = {z : Sym2 α | z.IsDiag} := rfl
 
+set_option linter.deprecated false in
+@[deprecated "This is the equational lemma" (since := "2025-12-10")]
```
Comment (b-mehta) [inline Mathlib/Data/Sym/Sym2.lean]: I don't think this is a helpful deprecation: there isn't a single equational lemma with the right syntactic form for both sides here. In fact, I think this lemma should stay around, but if you really want to deprecate it for whatever reason, then `Set.compl_setOf` would be a more helpful choice.

File: Mathlib/Data/Sym/Sym2.lean [hunk 5]
```diff
@@ -505,49 +505,52 @@ theorem mk_isDiag_iff {x y : α} : IsDiag s(x, y) ↔ x = y :=
...
+theorem isDiag_iff_mem_range_diag (z : Sym2 α) : IsDiag z ↔ z ∈ Set.range (@diag α) := by simp
 
-theorem mem_diagSet_iff_eq {a b : α} : s(a, b) ∈ diagSet ↔ a = b := by
-  simp
+@[deprecated mem_diagSet (since := "2025-11-05")]
+theorem mem_diagSet_iff_eq {a b : α} : s(a, b) ∈ diagSet ↔ a = b := by simp
 
-theorem diagSet_eq_setOf_isDiag : diagSet = {z : Sym2 α | z.IsDiag} :=
-  Set.ext mem_diagSet_iff_isDiag
+@[deprecated "This is the equational lemma" (since := "2025-12-10")]
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Sym/Sym2.lean]: Please don't deprecate this one; we don't need to push people towards relying on the the definition

**Review by Ruben-VandeVelde — APPROVED** [review]
Seems fine. Please update the deprecation dates before landing. 

maintainer delegate

File: Mathlib/Data/Sym/Sym2.lean (hunk 5 above)
Comment (YaelDillies) [reply Mathlib/Data/Sym/Sym2.lean]: But there's no other reasonable defeq to be had here

Comment (YaelDillies) [reply Mathlib/Data/Sym/Sym2.lean]: But there's no other reasonable defeq to be had here

Comment (YaelDillies) [reply Mathlib/Data/Sym/Sym2.lean]: But there's no other reasonable defeq to be had here

Comment (jcommelin) [reply Mathlib/Data/Sym/Sym2.lean]: Sure, but what is the harm to just keep it?
